US08106196B2
Preparation of ethyl 2-(furan-2-yl)-4-(2-chlorophenyl)-6-methyl-1,4-dihyropyrimidin-5-carboxylate
According to the process of Example 1, except that the 2-thienylformamidine hydrochloride, 2-chloro-4-fluorobenzaldehyde and methyl acetoacetate were replaced by 2-furylformamidine hydrochloride, 2-chlorobenzaldehyde and ethyl acetoacetate, respectively, and 0.20 g of a pale yellow particulates were obtained (yield: 28%); 1H-NMR (400 MHz, CDCl3-d1) δ 7.45 (s, 1H, ArH); 7.37-7.34 (m, 2H, ArH); 7.20-7.10 (m, 2H, ArH); 6.48 (m, 1H, ArH); 6.09 (s, 1H, CH); 4.07-4.03 (q, 2H, J=7.2 Hz, CH2); 2.55 (s, 3H, CH3); 1.13-1.09 (t, 3H, J=7.2 Hz, CH3). MS (EI) 344.0 (M+).

reactant | 2-thienylformamidine hydrochloride | Cl.S1C(=CC=C1)C(=N)N
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-furylformamidine hydrochloride | Cl.O1C(=CC=C1)C(=N)N
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | ethyl 2-(furan-2-yl)-4-(2-chlorophenyl)-6-methyl-1,4-dihyropyrimidin-5-carboxylate | yield: 28% | O1C(=CC=C1)C=1NC(=C(C(N1)C1=C(C=CC=C1)Cl)C(=O)OCC)C | C18H17ClN2O3
